US07851634B2
b) (5-Bromo-2-nitrophenyl)-(3-methoxypropyl)amine
A solution of 26.49 g of 2,4-dibromo-1-nitrobenzene [51686-78-3] and 70 ml of 3-methoxypropylamine is stirred at room temperature for 4 hours and subsequently left to stand at 3° C. for 2 days. The reaction mixture is concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60 F). Rf=0.4 (1:3 EtOAc-heptane). Rt=4.99 (gradient I).

reactant | 2,4-dibromo-1-nitrobenzene | 26.49 g | BrC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | 3-methoxypropylamine | 70 ml | COCCCN | C4H11NO
product | (5-Bromo-2-nitrophenyl)-(3-methoxypropyl)amine | BrC=1C=CC(=C(C1)NCCCOC)[N+](=O)[O-] | C10H13BrN2O3
